US06777559B2
Acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester
To a solution of 19.1 g of 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl alcohol (74 mmol) in 244 ml dichloromethane were added 34 ml triethylamine and 0.7 g 4-dimethyl-aminopyridine. The solution was cooled to 3° C. To the magnetically stirred solution 23.5 ml of acetic anhydride qas added with a dropping funnel at a temperature below 5° C. The reaction mixture was stirred 2 h at 22° C. After cooling in an ice bath 250 ml of water was added at a temperature of 20 to 24° C. The mixture was vigorously stirred for 10 min. The phases were separated, and the water solution extracted with 250 ml of dichloromethane. The combined organic phases were extracted with 250 ml of water three times, and once with 250 ml of brine. The dichloromethane solution was dried on sodium sulfat and finally rotary evaporated (35° C., 50 mbar), yield 22.8 g. In the next step (the cyclocarbonylation) the resulting oil was used without purification (crude quality).

reactant | 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl alcohol | 74 mmol, 19.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)O | C17H15NO3S
reactant | triethylamine | 34 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 23.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 250 ml | O | H2O
solvent | dichloromethane | 244 ml | ClCCl | CH2Cl2
product | Acetic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)OC(C)=O | C19H17NO4S
